US04349686
N-(5-Formyl-thien-2-yl)-N-hexadecyl-acetamide.
27 g of N-Hexadecyl-N-(2-thienyl)-acetamide are dissolved in 22 cc. of anhydrous DMF and 14 g of phosphorus oxychloride are added dropwise thereto under cooling with ice, thereby avoiding increase of the temperature of the reaction mixture above 20° C. Stirring is continued for 1 hour at 20° C. and the reaction mixture finally is stirred for 3 hours at 80° C. Ice is added to the reaction mixture and 5 N soda lye is added thereto until reaching a pH of 6. The resulting mixture is extracted with ether, the ethereal phase is separated, washed with water and dried over Na2SO4. The ether is separated and the residue is purified chromatographically on a column of silicic acid gel using hexane/ethyl acetate as eluant.

reactant | N-Hexadecyl-N-(2-thienyl)-acetamide | 27 g | C(CCCCCCCCCCCCCCC)N(C(C)=O)C=1SC=CC1 | C22H39NOS
reactant | phosphorus oxychloride | 14 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | DMF | CN(C)C=O | C3H7NO
product | N-(5-Formyl-thien-2-yl)-N-hexadecyl-acetamide | C(=O)C1=CC=C(S1)N(C(C)=O)CCCCCCCCCCCCCCCC | C23H39NO2S
